US07592477B2
Step a) Formation of N-dodecyl-4-{[(2-hydroxy-1-phenylethyl)amino]methyl}benzamide
The same procedure as employed in the preparation of Example 226 (step a) but using N-dodecyl-4-formylbenzamide and 2-amino-2-phenylethanol gave the title compound as a white powder (83%). 1H NMR (CD3OD, 300 MHz) δ 7.79 (d, J=8.3 Hz, 2H), 7.44-7.26 (m, 7H), 3.85-3.56 (m, 5H), 3.39 (t, J=7.2 Hz, 2H), 1.71-1.58 (m, 2H), 1.47-1.25 (m, 18H), 0.92 (t, J=6.8 Hz, 3H) M−(LC/MS(ESI)): 437.5; M+(LC/MS(ESI)): 439.6 HPLC (Condition A), Rt: 4.26 min (HPLC purity: 98.8%).

reactant | N-dodecyl-4-formylbenzamide | C(CCCCCCCCCCC)NC(C1=CC=C(C=C1)C=O)=O | C20H31NO2
reactant | 2-amino-2-phenylethanol | NC(CO)C1=CC=CC=C1 | C8H11NO
product | N-dodecyl-4-{[(2-hydroxy-1-phenylethyl)amino]methyl}benzamide | 83% | C(CCCCCCCCCCC)NC(C1=CC=C(C=C1)CNC(CO)C1=CC=CC=C1)=O | C28H42N2O2
